US04589905
To a solution of 2.5 g of 5-cyano-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester in 20 ml of DMF was added 20 ml of 40% aqueous monomethylamine. The reaction mixture was stirred at room temperature for approximately two and one-half hours whereupon the solution was poured into ice water. The precipitate was collected by filtration and recrystallized from methanol/water to afford 1.3 g of 5-cyano-1-(2,4-dichlorophenyl)-N-methyl-1H-pyrazole-4-carboxamide. MP=182°-183° C.

reactant | 5-cyano-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester | 2.5 g | C(#N)C1=C(C=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C13H9Cl2N3O2
reactant | monomethylamine | 20 ml | CN | CH5N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-cyano-1-(2,4-dichlorophenyl)-N-methyl-1H-pyrazole-4-carboxamide | 1.3 g | C(#N)C1=C(C=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)NC | C12H8Cl2N4O
